US04663453
9-Bromo-6-(4-methyl-1-piperidinyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine
A mixture of 4.73 g (0.0150 mole) of 9-bromo-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-one and 1000 ml of toluene was heated under nitrogen, with stirring, until a solution resulted. Then there was added 14.9 g (0.150 mole) of 4-methylpiperidine, followed by 8.54 g (0.045 mole) of titanium tetrachloride. The mixture was refluxed for 3 hours, cooled to room temperature and filtered. The filtrate was stirred with 500 ml of 2N sodium hydroxide solution for 15 minutes and the layers were separated. The aqueous phase was extracted with 250 ml of toluene. The toluene layers were combined, washed once with 2N sodium hydroxide solution, twice with water, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to an oil which solidified. The solid was triturated twice with hexane to afford 4.9 g (83%) of product. Recrystallization from ethyl acetate provided the analytical sample, mp 177°-179° C.

reactant | 9-bromo-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-one | 0.0150 mole, 4.73 g | BrC1=CC2=C(N3C4=C(C(N2)=O)C=CC=C4CC3)C=C1 | C15H11BrN2O
reactant | 4-methylpiperidine | 0.150 mole, 14.9 g | CC1CCNCC1 | C6H13N
catalyst | titanium tetrachloride | 0.045 mole, 8.54 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
product | 9-Bromo-6-(4-methyl-1-piperidinyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 4.9 g, 83% | BrC1=CC2=C(N3C4=C(C(=N2)N2CCC(CC2)C)C=CC=C4CC3)C=C1 | C21H22BrN3
